US07183415B2
2-methyl-1,2,3,4-tetrahydrobenzo[b][1,6]naphthyridin-7-amine
A solution of 2,4-diaminobenzaldehyde (1.00 g, 7.34 mmol), 1-methyl-4-piperidinone (1.08 ml, 8.81 mmol) and 4N aqueous sodium hydroxide solution (11 ml) in ethanol (70 ml) was stirred at 60° C. for 16 hrs, and the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate, washed with aqueous potassium carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The obtained crude product was purified by NH-silica gel chromatography (elute solvent; ethyl acetate) and treated with ethyl acetate-isopropyl ether (1:5) to give the title compound (666 mg) as a powder.

reactant | 2,4-diaminobenzaldehyde | 7.34 mmol, 1.00 g | NC1=C(C=O)C=CC(=C1)N | C7H8N2O
reactant | 1-methyl-4-piperidinone | 8.81 mmol, 1.08 ml | CN1CCC(CC1)=O | C6H11NO
reactant | sodium hydroxide | 4N, 11 ml | [OH-].[Na+]
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-methyl-1,2,3,4-tetrahydrobenzo[b][1,6]naphthyridin-7-amine | 666 mg | CN1CC=2C=C3C(=NC2CC1)C=C(C=C3)N | C13H15N3
